US09353060B2
To a magnetically stirred solution of methyl 2-(furan-2-yl)-2-(methoxyimino)acetate (17.50 g, 96 mmol) in 300 mL of MeOH was added 200 mL of a solution of 50% formic acid in water. The reaction mixture was cooled to 0° C. (ice bath) and zinc dust (18.74 g, 287 mmol) was added. After stirring at room temperature for 18 hr, the reaction mixture was filtered through a plug of Celite and the plug was washed with MeOH. Solvent was removed on the rotary evaporator and the yellow residue was dissolved in 50 mL of water, basified to pH 10 with a saturated solution of Na2CO3 and extracted with 3×100 mL of EtOAc. After drying (MgSO4) the organic extracts, solvent removal gave 10.2 g of methyl 2-amino-2-(furan-2-yl)acetate as an orange liquid.

reactant | methyl 2-(furan-2-yl)-2-(methoxyimino)acetate | 96 mmol, 17.50 g | O1C(=CC=C1)C(C(=O)OC)=NOC | C8H9NO4
reactant | formic acid | C(=O)O | CH2O2
solvent | MeOH | 300 mL | CO | CH4O
solvent | water | O | H2O
catalyst | zinc | 287 mmol, 18.74 g | [Zn] | Zn
product | methyl 2-amino-2-(furan-2-yl)acetate | 10.2 g | NC(C(=O)OC)C=1OC=CC1 | C7H9NO3
